US09399623B2
Step 2. 6-Chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexylmethyl)-amide
The title compound was synthesized according to the procedure described in example 126 using 6-chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexylmethyl)-amide, palladium on carbon and triethylsilane. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.74-8.77 (bs, 1H), 8.13 (d, J=9.0 Hz, 1H), 7.96 (d, J=9.51 Hz, 1H), 7.76 (d, J=9.01 Hz, 1H), 7.66 (d, J=8.81 Hz, 1H), 4.71 (s, 1H), 3.80-3.83 (m, 1H), 3.31-3.41 (m, 2H), 2.60-2.72 (m, 2H), 2.41-2.50 (m, 1H), 2.31-2.40 (m, 2H), 2.00-2.12 (m, 3H), 1.89-1.97 (m, 2H), 1.68-1.76 (m, 4H). m/z: 437.3 [M+H]+

reactant | 6-chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexylmethyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CC(CC1)=O)F | C22H21ClF2N2O3
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexylmethyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)=O)F | C22H23ClF2N2O3
